US07294629B2
7-bromo-N4-(3-chloro-4-fluorophenyl)-4,6-quinazolinediamine (5)
Reduced iron (84.2 g, 1.51 mol) and 1.5 mol/L hydrochloric acid (605 mL) were added to ethanol (2.5 L) and the mixture was heated to 90° C. with stirring. To this mixture was added (7-bromo-6-nitro-4-quinazolinyl)-(3-chloro-4-fluorophenyl)amine 4 times (30 g each time) every 30 min. The mixture was heated under reflux for 5 hrs and the inner temperature was set to 50° C. 2N Aqueous sodium hydroxide solution (450 mL) and 1N aqueous sodium hydroxide solution were added to adjust the pH thereof to 7-8 and the mixture was stirred for a while. Ethyl acetate (1 L) and Celite (300 g) were added, and after stirring for a while, the mixture was filtered through Celite. The residue was washed with THF-ethyl acetate (1:1, 1 L) and the filtrate was concentrated under reduced pressure. Water (1 L) was added to the concentrate and the product was collected by filtration and dried under reduced pressure at 60° C. overnight to give the title compound (108.76 g, 98%).

reactant | hydrochloric acid | 1.5 mol/L, 605 mL | Cl | ClH
reactant | ethanol | 2.5 L | C(C)O | C2H6O
reactant | (7-bromo-6-nitro-4-quinazolinyl)-(3-chloro-4-fluorophenyl)amine | BrC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)F)Cl)[N+](=O)[O-] | C14H7BrClFN4O2
reactant | sodium hydroxide | 2N, 450 mL | [OH-].[Na+]
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | Ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | 7-bromo-N4-(3-chloro-4-fluorophenyl)-4,6-quinazolinediamine | 108.76 g, 98% | BrC1=C(C=C2C(=NC=NC2=C1)NC1=CC(=C(C=C1)F)Cl)N | C14H9BrClFN4
